US06492392B1
Under an argon atmosphere, copper iodide (190 mg, 1.0 mmol), 1-octyne (0.55 mL, 5.0 mmol) and 3-iodo-4-methoxymethoxybenzaldehyde (291 mg, 1.0 mmol) were added to a solution (2 mL) of palladium (II) diacetate (11 mg, 0.05 mmol) and triphenylphosphine (52 mg, 0.20 mmol) in methylene chloride, followed by stirring at room temperature for 2 hours. Next, the reaction solution was filtered through celite, and the solvent contained in the filtrate was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluted with ethyl acetate/hexane=1/10) to give 3-(1-octyn-1-yl)-4-methoxymethoxybenzaldehyde (124 mg, yield 45%).

reactant | 1-octyne | 5.0 mmol, 0.55 mL | C#CCCCCCC | C8H14
reactant | 3-iodo-4-methoxymethoxybenzaldehyde | 1.0 mmol, 291 mg | IC=1C=C(C=O)C=CC1OCOC | C9H9IO3
reactant | triphenylphosphine | 0.20 mmol, 52 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | copper iodide | 1.0 mmol, 190 mg | [Cu](I)I
catalyst | palladium (II) diacetate | 0.05 mmol, 2 mL, 11 mg | C(C)(=O)[O-].C(C)(=O)[O-].[Pd+2]
product | 3-(1-octyn-1-yl)-4-methoxymethoxybenzaldehyde | 124 mg, yield 45% | C(#CCCCCCC)C=1C=C(C=O)C=CC1OCOC | C17H22O3
